US05753679
0.25 g (0.000612 mol) of 1-benzyl-piperidin-4-yl 2-nitro-4-trifluoromethyl-benzoate was dissolved in 10 ml of ethanol and treated with 0.15 g of Raney-nickel. The mixture was hydrogenated at room temperature under normal pressure for 2 hrs. The catalyst was filtered off and the solvent was removed completely. The residue was chromatographed over silica gel with ethyl acetate/hexane (1:1) as the eluent. 0.11 g (48%) of 1-benzyl-piperidin-4-yl 2-amino-4-trifluoromethyl-benzoate was obtained as a yellow oil. MS: me/e=379 (C20H22F3N2 O2 +).

reactant | 1-benzyl-piperidin-4-yl 2-nitro-4-trifluoromethyl-benzoate | 0.000612 mol, 0.25 g | [N+](=O)([O-])C1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC(=C1)C(F)(F)F | C20H19F3N2O4
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | Raney-nickel | 0.15 g | [Ni] | Ni
product | 1-benzyl-piperidin-4-yl 2-amino-4-trifluoromethyl-benzoate | 0.11 g, 48% | NC1=C(C(=O)OC2CCN(CC2)CC2=CC=CC=C2)C=CC(=C1)C(F)(F)F | C20H21F3N2O2
